US04956465
Ethyl 7-(cyano-ethoxycarbonyl-methyl)-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline-carboxylate
0.12 g of sodium hydride are initially introduced into 15 ml of dioxane. 0.51 g of ethyl cyanoacetate is added and the mixture is first stirred for one hour at room temperature. 1.1 g of ethyl 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline-carboxylate are then added in portions. The mixture is boiled for 3 hours, diluted using water and acidified. It is extracted using methylene chloride.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | ethyl cyanoacetate | 0.51 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 1.1 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1=CC=C(C=C1)F)C(=O)OCC)=O | C18H11F4NO3
solvent | water | O | H2O
product | Ethyl 7-(cyano-ethoxycarbonyl-methyl)-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline-carboxylate | C(#N)C(C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)OCC)=O)F)C(=O)OCC | C23H17F3N2O5
